US08377942B2
Sodium bicarbonate (1.4 g) is added to a solution of crude 1-bromo-4-bromomethyl-naphthalene (2.5 g) in DMSO (25 ml). The reaction is stirred for 3 h at 95° C. and cooled down to room temperature. Water is added and the mixture is extracted with ethyl acetate. The organic phase is dried over MgSO4 and concentrated in vacuo. The crude product is purified on a semi-preparative HPLC to yield 4-bromo-naphthalene-1-carbaldehyde as colorless crystals.

reactant | Sodium bicarbonate | 1.4 g | C([O-])(O)=O.[Na+]
reactant | 1-bromo-4-bromomethyl-naphthalene | 2.5 g | BrC1=CC=C(C2=CC=CC=C12)CBr | C11H8Br2
reactant | Water | O | H2O
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
product | 4-bromo-naphthalene-1-carbaldehyde | BrC1=CC=C(C2=CC=CC=C12)C=O | C11H7BrO
